US08455475B2
tert-Butyl 8-(isoquinolin-6-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate
Sodium t-butylate (6.24 mmol, 3.0 eq.) was added to a solution of tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (2.08 mmol, 1.0 eq.) and 6-bromoisoquinoline (2.08 mmol, 1.0 eq.) in toluene (10 ml) and the reaction mixture was degassed with N2. BINAP (0.124 mmol, 0.06 eq.) and Pd acetate (0.04 mmol, 0.02 eq.) were added and the mixture was heated at 120° C. for 12 h. The reaction mixture was filtered over Celite and the filtrate was concentrated on a rotary evaporator. The crude product was purified by means of column chromatography (silica gel, 5% methanol in methylene chloride) in order to obtain the desired product. Yield: 52%

reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 2.08 mmol, 1.0 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 6-bromoisoquinoline | 2.08 mmol, 1.0 eq. | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | BINAP | 0.124 mmol, 0.06 eq. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd acetate | 0.04 mmol, 0.02 eq. | [Pd].C(C)(=O)[O-]
product | tert-Butyl 8-(isoquinolin-6-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate | Yield: 52% | C1=NC=CC2=CC(=CC=C12)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C22H29N3O2
